US08258138B2
i) 4-(4-Phenyl-piperazin-1-yl methyl)phenylamine
A solution of sodium borohydride (63 mg, 1.68 mmol) in ethanol (1 ml) was added drop-wise to a stirred solution of 4-(4-phenylpiperazine-1-yl methyl)-nitro-aniline (1 g, 3.36 mmol) and tin (II) dichloride dihydrate (2.27 g, 10.10 mmol) in ethanol (20 ml) at 60° C. The resulting solution was stirred for 2 h after which the reaction was cooled to 0° C. and basified (pH>10) by the addition of sodium hydroxide (2M). The aqueous layer was extracted with dichloromethane (3×20 ml) and the combined organics washed with brine, then dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography (hexanes/ethyl acetate 1:1) to afford the title compound as a pale yellow solid (441 mg, 49%). HPLC retention time 5.82 min. Mass spectrum (ES+) m/z 268 (M+H).

reactant | sodium borohydride | 1.68 mmol, 63 mg | [BH4-].[Na+]
reactant | 4-(4-phenylpiperazine-1-yl methyl)-nitro-aniline | 3.36 mmol, 1 g | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(N[N+](=O)[O-])C=C1 | C17H20N4O2
reactant | tin (II) dichloride dihydrate | 10.10 mmol, 2.27 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(4-Phenyl-piperazin-1-yl methyl)phenylamine | 441 mg, 49% | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)N | C17H21N3
